US07906645B2
tert-Butyl (2R)-4-isopropyl-2-(piperazin-1-ylcarbonyl)piperazine-1-carboxylate
To tert-butyl (2R)-2-({4-[(benzyloxy)carbonyl]piperazin-1-yl}carbonyl)-4-isopropylpiperazine-1-carboxylate (660 mg) in ethyl acetate (20 mL, degassed) was added Pd/C (10%) (200 mg) and the mixture was degassed again. The reaction was placed under an H2 atmosphere and stirred vigorously for 16 h. The reaction was filtered and 500 mg of 10% Pd/C added and place under hydrogen atmosphere and stirred for an additional 5 h. The reaction was filtered through a PTFE filter and evaporated to give the title compound (462 mg) as a solid on further drying.

reactant | tert-butyl (2R)-2-({4-[(benzyloxy)carbonyl]piperazin-1-yl}carbonyl)-4-isopropylpiperazine-1-carboxylate | 660 mg | C(C1=CC=CC=C1)OC(=O)N1CCN(CC1)C(=O)[C@@H]1N(CCN(C1)C(C)C)C(=O)OC(C)(C)C | C25H38N4O5
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 200 mg | [Pd] | Pd
product | tert-Butyl (2R)-4-isopropyl-2-(piperazin-1-ylcarbonyl)piperazine-1-carboxylate | 462 mg | C(C)(C)N1C[C@@H](N(CC1)C(=O)OC(C)(C)C)C(=O)N1CCNCC1 | C17H32N4O3
